US06043365
To a solution of 3-[(2-fluorophenyl)-acetyl]-4(R)-phenyl-2-oxazolidinone (435 g, 1.45 mol) in THF (6000 mL), is added sodium hexamethyldisilazide [(TMS)2NNa, 1M in THF, 1480 ml, 1.48 mol] dropwise at -78° C. The resulting mixture is then warmed to -30° C. and stirred for 2.5 hours. After this time the reaction mixture is recooled to -78° C. and a solution of BrCH2CN (175 g, 1.46 mmol) in THF (200 mL) is added. The reaction mixture is then warmed to -40° C. and stirred for 2 hours. Subsequently the resulting solution is treated with saturated NH4Cl (1×3000 ml) and extracted with EtOAc (1×3000 mL). The organic layer is separated, washed with H2O (1×1500 mL), saturated NaCl solution (2×1500 mL), dried over MgSO4 and concentrated in vacuo, to provide 3-[(R)-β-cyano-α-(2-fluorophenyl)-propionyl]-4-(R)-phenyl-2-oxazolidinone, m.p. 179-181° C.

reactant | 3-[(2-fluorophenyl)-acetyl]-4(R)-phenyl-2-oxazolidinone | 1.45 mol, 435 g | FC1=C(C=CC=C1)CC(=O)N1C(OC[C@H]1C1=CC=CC=C1)=O | C17H14FNO3
reactant | sodium hexamethyldisilazide | 1.48 mol, 1M, 1480 ml | C[Si]([N-][Si](C)(C)C)(C)C.[Na+]
reactant | BrCH2CN | 1.46 mmol, 175 g | BrCC#N | C2H2BrN
reactant | NH4Cl | 3000 ml | [NH4+].[Cl-]
solvent | THF | 6000 mL | C1CCOC1 | C4H8O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 3-[(R)-β-cyano-α-(2-fluorophenyl)-propionyl]-4-(R)-phenyl-2-oxazolidinone | C(#N)C[C@@H](C(=O)N1C(OC[C@H]1C1=CC=CC=C1)=O)C1=C(C=CC=C1)F | C19H15FN2O3
